US08486967B2
e) 2-{6-(4-Chloro-benzyl)-2-[1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-ylamino]-pyrimidin-4-yl}-propan-2-ol
In analogy to example 29, 1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-ylamine (65 mg, 0.33 mmol) was reacted with 2-[2-chloro-6-(4-chloro-benzyl)-pyrimidin-4-yl]-propan-2-ol (98 mg, 0.33 mmol) to give the title compound (55 mg, 36%) as yellow foam.

reactant | 1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-ylamine | 0.33 mmol, 65 mg | CC1=NSC(=N1)N1CCC(CC1)N | C8H14N4S
reactant | 2-[2-chloro-6-(4-chloro-benzyl)-pyrimidin-4-yl]-propan-2-ol | 0.33 mmol, 98 mg | ClC1=NC(=CC(=N1)C(C)(C)O)CC1=CC=C(C=C1)Cl | C14H14Cl2N2O
product | 2-{6-(4-Chloro-benzyl)-2-[1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-ylamino]-pyrimidin-4-yl}-propan-2-ol | 55 mg, 36% | ClC1=CC=C(CC2=CC(=NC(=N2)NC2CCN(CC2)C2=NC(=NS2)C)C(C)(C)O)C=C1 | C22H27ClN6OS
